US04112086
A mixture of 5.35 g (0.028 mol) of N-(2-hydroxyethyl)phthalimide and 7.7 g (0.028 mol) of phosphorus tribromide is warmed until solution is obtained. The reaction mixture is then cooled and poured into ice water. The resulting solid is collected by filtration and washed with water to give N-(2-bromoethyl)phthalimide.

reactant | N-(2-hydroxyethyl)phthalimide | 0.028 mol, 5.35 g | OCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H9NO3
reactant | phosphorus tribromide | 0.028 mol, 7.7 g | P(Br)(Br)Br | Br3P
product | N-(2-bromoethyl)phthalimide | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
